US04886744
Phosphorus oxychloride (1.23 g., 0.0080 mole) was slowly added dropwise to 5 ml. of DMF which was cooled in an ice bath. The solution was stirred for 5 minutes and to it there was added dropwise a solution of 1-methylindoline (1.0 g., 0.0075 mole) in 2 ml. of DMF. The resulting mixture was stirred in the ice bath for 5 minutes, then at room temperature for 1 hour and finally at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, slowly poured into water with stirring and extracted with ethyl ether. The crude oil was chromatographed on silica gel with 80/20 (v/v) CH2Cl2 /EtOAc to yield 0.745 g. (62% yield) of 5-formyl-1-methylindoline as a yellow solid, m.p. 39°-41° C.

reactant | Phosphorus oxychloride | 0.0080 mole, 1.23 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-methylindoline | 0.0075 mole, 1.0 g | CN1CCC2=CC=CC=C12 | C9H11N
solvent | water | O | H2O
product | 5-formyl-1-methylindoline | 62% yield | C(=O)C=1C=C2CCN(C2=CC1)C | C10H11NO
